US06921753B2
N-({9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(diisopropylamino)ethyl]urea
N-[2-(Diisopropylamino)ethyl]-1H-imidazole-1-carboxamide (84 mg, 0.35 mmol) (Preparation 27) was added to a stirred solution of (2R,3R,4S,5R)-2-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol (150 mg, 0.35 mmol) (Preparation 2) in dichloromethane (5 ml) at room temperature. The reaction was heated under reflux for 1 hour and then toluene (5 ml) and isopropanol (2 ml) were added. The dichloromethane was boiled off and the reaction was then heated under reflux for 1 hour. The reaction mixture was allowed to cool to room temperature and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol:0.88 concentrated aqueous ammonia (95:5:0.5 by volume increasing to 80:20:2 by volume). This gave the title compound as a foam (60 mg).

reactant | N-[2-(Diisopropylamino)ethyl]-1H-imidazole-1-carboxamide | 0.35 mmol, 84 mg | C(C)(C)N(CCNC(=O)N1C=NC=C1)C(C)C | C12H22N4O
reactant | (2R,3R,4S,5R)-2-{2-(aminomethyl)-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(hydroxymethyl)tetrahydro-3,4-furandiol | 0.35 mmol, 150 mg | NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)CO)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28N6O4
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-({9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-N′-[2-(diisopropylamino)ethyl]urea | 60 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNC(=O)NCCN(C(C)C)C(C)C | C34H46N8O5
